US06787543B2
A solution of 1-fluoro-2-methyl-4-nitrobenzene (10 g) in methanol (200 ml) was hydrogenated over 10% palladium-charcoal (50% wet, 1.0 g) at room temperature under atmospheric pressure for 8 hours. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure to give a syrup. The syrup was dissolved into dichloromethane (200 ml) and thereto triethylamine (16.2 ml) and trifluroacetic anhydride (14.9 g) were added dropwise. The whole mixture was stirred for 5 hours at room temperature and then washed with water and brine successively. The organic layer was separated, dried over magnesium sulfate, and evaporated under reduced pressure to give 2,2,2-trifluoro-N-(4-fluoro-3-methylphenyl)acetamide (14.5 g).

reactant | 1-fluoro-2-methyl-4-nitrobenzene | 10 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | triethylamine | 16.2 ml | C(C)N(CC)CC | C6H15N
reactant | trifluroacetic anhydride | 14.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-charcoal | 1.0 g | [Pd] | Pd
product | 2,2,2-trifluoro-N-(4-fluoro-3-methylphenyl)acetamide | 14.5 g | FC(C(=O)NC1=CC(=C(C=C1)F)C)(F)F | C9H7F4NO
